US09370522B2
A solution of 3-(4-(t-butoxycarbonyl(methyl)amino)phenyl)-2-phenylquinoxaline-6-carboxylic acid (213.5 mg, 0.46 mmol, 1.00 equiv, 99%) and K2CO3 (324.2 mg, 2.35 mmol, 5.00 equiv) in DMF (8 mL) was stirred 45 min at room temperature under an inert atmosphere. CH3I (333.7 mg, 2.35 mmol, 5.00 equiv) was added dropwise, with stirring, at 0° C. The resulting solution was stirred for 1 h at room temperature, then quenched by water. The solution was extracted with 5×10 mL of CH2Cl2, and the organic layers combined and dried over anhydrous sodium sulfate. The solids were filtered out, and the resulting mixture was concentrated under vacuum affording 218 mg (98%) of methyl 3-(4-(t-butoxycarbonyl(methyl)amino)phenyl)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | 3-(4-(t-butoxycarbonyl(methyl)amino)phenyl)-2-phenylquinoxaline-6-carboxylic acid | 0.46 mmol, 213.5 mg, 1.00 equiv | C(C)(C)(C)OC(=O)N(C1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1)C | C27H25N3O4
reactant | K2CO3 | 2.35 mmol, 324.2 mg, 5.00 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3I | 2.35 mmol, 333.7 mg, 5.00 equiv | CI | CH3I
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | methyl 3-(4-(t-butoxycarbonyl(methyl)amino)phenyl)-2-phenylquinoxaline-6-carboxylate | 218 mg, 98% | C(C)(C)(C)OC(=O)N(C1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1)C | C28H27N3O4
